US09035062B2
Step 1: (S)-1-Benzyl 2-tert-butyl 5-oxopyrrolidine-1,2-dicarboxylate
100 g of (S)-1-(benzyloxycarbonyl)-5-oxopyrrolidine-2-carboxylic acid was dissolved in dehydrated dichloromethane (2 L), and under ice cooling, concentrated sulfuric acid (10 mL) and 213 g of isobutene were added, followed by stirring overnight at +20° C. or less. The reaction mixture was added to cold aqueous sodium carbonate solution while paying attention to effervescence, followed by liquid separation of the organic phase, washing with saturated brine and drying over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=7/3), and crystallized with hexane/ethyl acetate to afford 80 g of the title compound as a colorless crystalline powder (yield 67%). Enantiomeric excess: 99.9% ee or more (CHIRALPAK AD-H, 4.6×150 mm, UV 210 nm, hexane/ethanol=2/1, flow rate 1 mL/min., retention time 4.2 min.).

reactant | (S)-1-(benzyloxycarbonyl)-5-oxopyrrolidine-2-carboxylic acid | 100 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 213 g | C=C(C)C | C4H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | (S)-1-Benzyl 2-tert-butyl 5-oxopyrrolidine-1,2-dicarboxylate | 80 g, yield 67% | O=C1CC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H21NO5
